Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-3.97810790958
[H:14].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.38034780398
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])[H:13].[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-3.94327057783
[C:1].[C:2]([H:3])([H:4])=[C:5][O:6][C:7](=[O:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5][O:6][C:7](=[O:8])[H:9],-1.97770610308
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.37928838809
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[O:8],0.862605356699
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],4.63263905441
[O:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12],-5.74703932
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][H:10],7.56062735826
[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]1[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:12](=[C:10][H:11])[H:13],4.86299648057
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],2.36704666275
[O:1]=[C:2]([H:3])[C:4][C:5]#[C:6][O:7]>>[O:1]=[C:2]([H:3])[C:4]1[C:5][C:6]1=[O:7],1.01741103675
[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[O:13]1>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[O:13],-0.0685976712211
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.84427146701
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],2.23695024682
[C:3](=[C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2][C:3]([C:4]([H:5])[H:6])=[C:7]([O:8][H:9])[O:10][H:11],-4.10385428023
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],4.450956757619999
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],5.13676123187
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2][O:3][C:4][H:5],4.09126408029
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],2.82140370447
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.7743738125
[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1][O:2][C:3][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.41626046574
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-2.91356612932
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1],8.0363373544
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],5.27931563251
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7][O:8][H:9].[H:5],1.62137419387
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.57192321989
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:13]([H:14])([H:15])[H:16],4.45902922518
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1],7.217594768089999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:3],1.93026136431
